US07285563B2
N-[8-(trifluoromethyl)isoquinolin-5-yl]-N′-[4-(trifluoromethyl)benzyl]urea
To a solution of 8-(trifluoromethyl)isoquinolin-5-amine (Description 93; 150 mg, 0.708 mmol) in CDCl3 (10 ml) was added [4-(trifiuoromethyl)benzyl]isocyanate (Description 58) [0.506M soln in DCM; 1.403 ml, 0.71 mmol) and the resulting mixture heated at reflux overnight. NMR analysis showed a deficit of the [4-(trifluoromethyl)benzyl]isocyanate in comparison to remaining 8-(trifluoromethyl)isoquinolin-5-amine so a further portion of [4-(trifluoromethyl)benzyl]isocyanate [0.506M solution in DCM] (1.403 ml; 0.71 mmol) was added and refluxing continued for 2 days. The cooled reaction mixture was evaporated to dryness and purified by column chromatography on silica elution with 1% MeOH in DCM+0.5% NH4OH. NMR showed the product was the bis acylated urea. This material was dissolved in methanol (5 ml) and K2CO3 (500 mg, 3.6 mmol) added and the mixture stirred at room temperature for 2.5 hours. The mixture was filtered and the residue purified by preparative TLC eluting with 10% MeOH in DCM+0.5% NH4OH to give the title compound (100 mg, 34%) as a white solid. m/z (ES+) 414 (M+H)+.

reactant | 8-(trifluoromethyl)isoquinolin-5-amine | 0.708 mmol, 150 mg | FC(C1=CC=C(C=2C=CN=CC12)N)(F)F | C10H7F3N2
reactant | [4-(trifiuoromethyl)benzyl]isocyanate | FC(C1=CC=C(CN=C=O)C=C1)(F)F | C9H6F3NO
reactant | [4-(trifluoromethyl)benzyl]isocyanate | 0.71 mmol, 0.506M, 1.403 ml | FC(C1=CC=C(CN=C=O)C=C1)(F)F | C9H6F3NO
reactant | K2CO3 | 3.6 mmol, 500 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-[8-(trifluoromethyl)isoquinolin-5-yl]-N′-[4-(trifluoromethyl)benzyl]urea | 100 mg, 34% | FC(C=1C=CC(=C2C=CN=CC12)NC(=O)NCC1=CC=C(C=C1)C(F)(F)F)(F)F | C19H13F6N3O
